US07462630B2
Synthesis of N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2,2-dimethylpropanamide
100 mg (0.271 mmol) of 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride was dissolved in 1 ml of dichloromethane. 82.3 mg (0.813 mmol) of triethylamine was added to the obtained solution. A solution of 39.2 mg (0.325 mmol) of pivaloyl chloride in 0.5 ml of dichloromethane was slowly added to the obtained mixture. After stirring for 30 minutes, the obtained product was purified by the silica gel chromatography (hexane:ethyl acetate=9:1 to 3:1).

reactant | 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride | 0.271 mmol, 100 mg | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CN)=O
reactant | triethylamine | 0.813 mmol, 82.3 mg | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.325 mmol, 39.2 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2,2-dimethylpropanamide | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(C(C)(C)C)=O)=O | C27H30N2O2
